* Created by KLayout
*** My special header ***

* cell FILL3
* pin gnd
* pin vdd
.SUBCKT FILL3 gnd vdd
* device instance $1 r0 *1 8.1,47.7 PMOS
XM$1 vdd gnd vdd vdd PMOS L=8.6u W=21.2u AS=59.36p AD=59.36p PS=48u PD=48u
* device instance $2 r0 *1 8.1,13.05 NMOS
XM$2 gnd vdd gnd gnd NMOS L=8.6u W=13.1u AS=36.68p AD=36.68p PS=31.8u PD=31.8u
.ENDS FILL3
