* Created by KLayout
*** My special header ***

* cell NAND3
* pin A
* pin B
* pin C
* pin Y
* pin gnd
* pin vdd
.SUBCKT NAND3 A B C Y gnd vdd
* device instance $1 r0 *1 4,53.2 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 8,53.2 PMOS
XM$2 Y B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 12,53.2 PMOS
XM$3 vdd C Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 8.6,8.2 NMOS
XM$4 gnd A \$8 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance $5 r0 *1 10.8,8.2 NMOS
XM$5 \$8 B \$7 gnd NMOS L=1u W=3.4u AS=2.04p AD=2.04p PS=4.6u PD=4.6u
* device instance $6 r0 *1 13,8.2 NMOS
XM$6 \$7 C Y gnd NMOS L=1u W=3.4u AS=2.04p AD=9.52p PS=4.6u PD=12.4u
.ENDS NAND3
